US04394515
3-Cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin
Stir 5 gm. of methyl 10,11-dihydro-11-oxodibenzo[b,f]thiepin-3-carboxylate in 500 ml. of methanol saturated with ammonia gas for 24 hours at room temperature. Evaporate the reaction mixture to dryness. Reflux the residue in 200 ml. of methylene chloride containing 10 gm. of phosphorous oxychloride for eight hours. Cool the reaction mixture to room temperature and shake several times with water. Separate the organic layer, dry over magnesium sulfate and evaporate to dryness to obtain the title product.

reactant | methyl 10,11-dihydro-11-oxodibenzo[b,f]thiepin-3-carboxylate | O=C1C2=C(SC3=C(C1)C=CC=C3)C=C(C=C2)C(=O)OC | C16H12O3S
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 3-Cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin | C(#N)C=1C=CC2=C(SC3=C(CC2=O)C=CC=C3)C1 | C15H9NOS
